US05082932
b) Methyl 1-amino-2-hydroxy-4-sulfo-6-naphthalenecarboxylate
92.4 g (0.4 mol) of crude 1-nitroso-6-methoxycarbonyl-β-naphthol were added at room temperature to a solution of 360 g (1.11 mol) of 40%-strength aqueous sodium hydrogen sulfite and 4.4 g (0.11 mol) or sodium hydroxide in 1610 ml of water. The suspension was heated for 24 h at 40° C. and then 2.4 g; (2.6% of the amount taken) of residue were separated off. The clear solution was then acidified at 25° C. with 142 g (1.39 mol) of 36%-strength sulfuric acid and the product was crystallized out for 48 hours at room temperature. After filtration by suction and drying, 76.0 g (64%) of product is obtained.

reactant | 1-nitroso-6-methoxycarbonyl-β-naphthol | 0.4 mol, 92.4 g | N(=O)C1=C(C=CC2=CC(=CC=C12)C(=O)OC)O | C12H9NO4
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1610 ml | O | H2O
product | Methyl 1-amino-2-hydroxy-4-sulfo-6-naphthalenecarboxylate | 76.0 g, 64% | NC1=C(C=C(C2=CC(=CC=C12)C(=O)OC)S(=O)(=O)O)O | C12H11NO6S
